US08466115B2
1-benzhydryl-3-(2-bromo-4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)azetidin-3-ol
In an oven-dried flask containing 3-(3-bromo-4-iodophenyl)-5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (1000 mg, 1.67 mmol) in THF (25 mL) at −40° C. was slowly added isopropyl magnesium chloride (1.7 mL of 2.0M solution). The reaction was stirred at approximately −40° C. for 1.5 hours under nitrogen. 1-benzhydrylazetidin-3-one (520 mg in 4 mL THF) was slowly added. The reaction was stirred at −40° C. for an additional 30 minutes and allowed to warm to room temperature. Stirring was continued for 2 hours at room temperature. The reaction was quenched with saturated NH4Cl and extracted with EtOAc (2×75 mL). The combined organic phase was dried (Na2SO4) and concentrated under vacuum. The crude material was chromatographed (40 g Redi-Sep column) eluting from 100% heptane to 60:40 EtOAc:heptane, collecting the intermediate (615 mg, 52%) as a glass. 1HNMR (CDCl3) δ ppm: 7.87 (1H), 7.66-7.63 (3H), 7.45 (4H), 7.36-7.21 (7H), 4.39 (1H), 4.07 (1H), 3.73-3.58 (5H), 3.06 (1H); m/z (CI) 711 [M+H]+.

reactant | 3-(3-bromo-4-iodophenyl)-5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 1.67 mmol, 1000 mg | BrC=1C=C(C=CC1I)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C16H7BrCl3F3INO
reactant | isopropyl magnesium chloride | 2.0M, 1.7 mL | C(C)(C)[Mg]Cl
reactant | 1-benzhydrylazetidin-3-one | 4 mL, 520 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-benzhydryl-3-(2-bromo-4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)azetidin-3-ol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(O)C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Br | C32H23BrCl3F3N2O2
